US04521430
3.01 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 50 ml of pyridine, and 2.31 g of 2-chloro-4-nitrobenzoyl chloride are added thereto under ice-cooling and stirring. The mixture is stirred at room temperature overnight. The mixture is poured into ice-water and then extracted with ethyl acetate. The extract is washed with 10% hydrochloric acid and water, dried and then evaporated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, chloroform:methanol=100:1). 4.81 g of (-)-cis-2-(4-methoxyphenyl)-3-(2-chloro-4-nitrobenzoyloxy)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as a pale yellow powder. Yield: 99%.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.01 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC=C2 | C16H15NO3S
reactant | 2-chloro-4-nitrobenzoyl chloride | 2.31 g | ClC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | (-)-cis-2-(4-methoxyphenyl)-3-(2-chloro-4-nitrobenzoyloxy)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 4.81 g, Yield: 99% | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1OC(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O)=O)C=CC=C2 | C23H17ClN2O6S
